US08629137B2
7-methoxy-3-{1-[6-(7-methyl-2,3-dihydro-benzofuran-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
100 mg (0.363 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 90.0 mg (0.229 mmol) (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone and 0.200 mL (1.16 mmol) DIPEA were combined in 1.5 mL DMF and stirred for 48 h at RT. Then the reaction mixture was combined with a few drops of hydrochloric acid and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.363 mmol, 100 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone | 0.229 mmol, 90.0 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C(C2=C(CCO2)C1)C | C14H11ClN2O2
reactant | DIPEA | 1.16 mmol, 0.200 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | hydrochloric acid | a few drops | Cl | ClH
product | 7-methoxy-3-{1-[6-(7-methyl-2,3-dihydro-benzofuran-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C=2C=C(C3=C(CCO3)C2)C)=O)C=C1 | C29H31N5O4
